US07253286B2
4-(4-Aminophenoxy)-6-cyano-7-((2R)-oxiran-2-yl)methoxyquinoline
After dissolving 4-(4-aminophenoxy)-6-cyano-7-hydroxyquinoline (277 mg, 1.00 mmol) in dimethylformamide (3.0 ml), sodium hydride (40 mg, 1.00 mmol, 60% in oil) was added at room temperature and the mixture was stirred. There was then added (2R)-oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate (228 mg, 1.00 mmol), and the mixture was heated and stirred at 60° C. for 5 hours. After cooling to room temperature, the reaction solution was distributed between ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was distilled off to obtain the title compound (322 mg, 0.97 mmol, 97%)-as a yellow solid.

reactant | 4-(4-aminophenoxy)-6-cyano-7-hydroxyquinoline | 1.00 mmol, 277 mg | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)O)C=C1 | C16H11N3O2
reactant | sodium hydride | 1.00 mmol, 40 mg | [H-].[Na+]
reactant | (2R)-oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate | 1.00 mmol, 228 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC1 | C10H12O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(4-Aminophenoxy)-6-cyano-7-((2R)-oxiran-2-yl)methoxyquinoline | 0.97 mmol, 322 mg, 97% | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OC[C@@H]2OC2)C=C1 | C19H15N3O3
